US05135955
To a stirring solution of 20.6 g of 4-hexyloxybenzaldehyde and 11.8 g of 3-pyridylacetonitrile in methanol was added 25 ml of aqueous potassium hydroxide (25 percent). A precipitate formed and the resultant mixture was stirred at room temperature for an additional two hours. The resultant precipitate was collected by filtration, washed with water and recrystallized from ethanol to yield the intermediate, α-[[4-(hexyloxy)phenyl]methylene]-3-pyridylacetonitrile (m.p. 67°-68° C). 46 g of said nitrile, 10 g of Raney nickel, 150 ml of anhydrous ammonia and 300 ml of tetrahydrofuran were stirred at 100° C. for ten hours at a pressure of 1500 psi. The catalyst and solvent were removed and the residue was taken up in diethyl ether and fitered through magnesia-silica gel. The hydrochloride salt was made in the filtrate by the addition of anhydrous hydrochloric acid. Recrystallization from ethanol yielded β-[[4-(hexyloxy)phenyl]methyl]-3-pyridineethanamine dihydrochloride.

reactant | 4-hexyloxybenzaldehyde | 20.6 g | C(CCCCC)OC1=CC=C(C=O)C=C1 | C13H18O2
reactant | 3-pyridylacetonitrile | 11.8 g | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | potassium hydroxide | 25 ml | [OH-].[K+]
solvent | methanol | CO | CH4O
product | α-[[4-(hexyloxy)phenyl]methylene]-3-pyridylacetonitrile | C(CCCCC)OC1=CC=C(C=C1)C=C(C#N)C=1C=NC=CC1 | C20H22N2O
